US08703758B2
E) tert-butyl [2-(cyclopropylmethoxy)-5-(methoxymethoxy)pyridin-4-yl]carbamate
To a solution of 2-(cyclopropylmethoxy)-5-(methoxymethoxy)pyridine-4-carboxylic acid (810 mg) in tert-butyl alcohol (16 mL) were added diphenylphosphorylazide (0.831 mL) and N,N-diisopropylethylamine (0.669 mL), and the mixture was refluxed for 11 hr. The solvent was evaporated under reduced pressure, brine was added thereto, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (737 mg).

reactant | 2-(cyclopropylmethoxy)-5-(methoxymethoxy)pyridine-4-carboxylic acid | 810 mg | C1(CC1)COC1=NC=C(C(=C1)C(=O)O)OCOC | C12H15NO5
reactant | diphenylphosphorylazide | 0.831 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | N,N-diisopropylethylamine | 0.669 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-butyl alcohol | 16 mL | C(C)(C)(C)O | C4H10O
product | tert-butyl [2-(cyclopropylmethoxy)-5-(methoxymethoxy)pyridin-4-yl]carbamate | 737 mg | C1(CC1)COC1=NC=C(C(=C1)NC(OC(C)(C)C)=O)OCOC | C16H24N2O5
